plaintext
* SPICE netlist for the given circuit

Vi 2 4 DC 0
Rd 2 3 1k  ; Assuming a resistance value of 1k ohms for rd
R 3 5 1k   ; Assuming a resistance value of 1k ohms for R

* Nodes annotations
* 2: Connected to positive terminal of Vi and one terminal of Rd
* 3: Connected to Rd and one terminal of R
* 4: Connected to negative terminal of Vi (ground)
* 5: Connected to one terminal of R

.end